data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:3][C:13]([F:4])([F:5])[F:6])[S:2](=[O:20])(=[O:21])[c:7]2[c:24]([cH:22][cH:8][cH:25][cH:28]2)[C:26]1=[O:17].[O-:9][c:19]1[cH:14][c:12](=[O:15])[n:23]([CH3:11])[c:18](=[O:10])[n:27]1[CH3:16]>>[N:1]1=[C:26]([O-:17])[c:24]2[c:7]([cH:28][cH:25][cH:8][cH:22]2)[S:2]1(=[O:20])=[O:21].[S:3]([C:13]([F:4])([F:5])[F:6])[CH:14]1[C:12](=[O:15])[N:23]([CH3:11])[C:18](=[O:10])[N:27]([CH3:16])[C:19]1=[O:9]", "epd": [["LP-/Pi+", [9], [19, 9]], ["Pi-/Sigma+", [14, 19], [14, 3]], ["Sigma-/Pi+", [3, 1], [1, 26]], ["Pi-/LP+", [26, 17], [17]]]}
{"reaction_name": "Neighboring thioether participation", "rsmi": "[Br:1][CH2:7][CH2:4][S:6][CH2:2][CH3:3].[Cl-:5]>>[Br-:1].[CH2:2]([CH3:3])[S:6][CH2:4][CH2:7][Cl:5]", "epd": [["LP-/Sigma+", [5], [5, 7]], ["Sigma-/LP+", [1, 7], [1]]]}
{"reaction_name": "Passerini acyl transfer step", "rsmi": "[CH3:1][N+:3]#[C-:6].[O:2]=[C:4]([CH3:5])[O:10][H:11].[O:7]=[CH:9][CH3:8]>>[CH3:1][N:3]([C:6](=[O:7])[CH:9]([CH3:8])[O:10][C:4](=[O:2])[CH3:5])[H:11]", "epd": [["LP-/Sigma+", [6], [6, 9]], ["Sigma-/LP+", [7, 9], [7]], ["LP-/Sigma+", [7], [6, 7]], ["Pi-/LP+", [3, 6], [3]], ["LP-/Sigma+", [3], [3, 11]], ["Sigma-/LP+", [10, 11], [10]], ["LP-/Sigma+", [10], [9, 10]], ["Pi-/LP+", [7, 9], [7]], ["LP-/Pi+", [7], [6, 7]], ["Pi-/LP+", [3, 6], [3]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:3]([N+:6]12[CH2:10][CH2:18][N+:9]([F:4])([CH2:19][CH2:11]1)[CH2:20][CH2:12]2)[Cl:22].[cH:1]1[c:24]([CH:13]=[C:15]2[S:7][c:21]3[cH:16][cH:8][cH:14][cH:5][c:17]3[N:28]2[CH3:23])[cH:2][cH:26][cH:27][cH:25]1>>[CH2:3]([N+:6]12[CH2:10][CH2:18][N:9]([CH2:19][CH2:11]1)[CH2:20][CH2:12]2)[Cl:22].[cH:1]1[c:24]([CH:13]([F:4])[c:15]2[s:7][c:21]3[cH:16][cH:8][cH:14][cH:5][c:17]3[n+:28]2[CH3:23])[cH:2][cH:26][cH:27][cH:25]1", "epd": [["LP-/Pi+", [28], [15, 28]], ["Pi-/Sigma+", [13, 15], [13, 4]], ["Sigma-/LP+", [4, 9], [9]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:4][C:37]1=[C:39]([Cl:32])[C:7](=[O:9])[C:6](=[O:8])[C:40]([Cl:33])=[C:38]1[Cl:5].[c:1]1([P:31]([c:2]2[cH:14][cH:20][c:35]([N:11]([CH3:27])[CH3:28])[cH:21][cH:15]2)[c:3]2[cH:16][cH:22][c:36]([N:12]([CH3:29])[CH3:30])[cH:23][cH:17]2)[cH:13][cH:19][c:34]([N:10]([CH3:25])[CH3:26])[cH:24][cH:18]1>>[c:1]1([P+:31]([c:2]2[cH:14][cH:20][c:35]([N:11]([CH3:27])[CH3:28])[cH:21][cH:15]2)([c:3]2[cH:16][cH:22][c:36]([N:12]([CH3:29])[CH3:30])[cH:23][cH:17]2)[C:6]2([O-:8])[C:7](=[O:9])[C:39]([Cl:32])=[C:37]([Cl:4])[C:38]([Cl:5])=[C:40]2[Cl:33])[cH:13][cH:19][c:34]([N:10]([CH3:25])[CH3:26])[cH:24][cH:18]1", "epd": [["LP-/Sigma+", [31], [31, 6]], ["Pi-/LP+", [6, 8], [8]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:3](=[O:17])([O:24][CH2:5][c:15]1[cH:19][cH:7][cH:13][cH:10][cH:22]1)[N:27]=[N:26][C:4](=[O:18])[O:25][CH2:6][c:16]1[cH:20][cH:8][cH:14][cH:9][cH:21]1.[cH:1]1[c:29]2[cH:28][cH:12][cH:2][cH:23][c:31]2[cH-:11][cH:30]1>>[CH:1]1=[CH:30][CH:11]([N:26]([C:4](=[O:18])[O:25][CH2:6][c:16]2[cH:20][cH:8][cH:14][cH:9][cH:21]2)[N:27]=[C:3]([O-:17])[O:24][CH2:5][c:15]2[cH:19][cH:7][cH:13][cH:10][cH:22]2)[c:31]2[cH:23][cH:2][cH:12][cH:28][c:29]21", "epd": [["LP-/Sigma+", [11], [11, 26]], ["Pi-/Pi+", [26, 27], [27, 3]], ["Pi-/LP+", [3, 17], [17]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:2]1=[CH:9][c:10]2[cH:14][cH:13][cH:26][cH:12][c:16]2[CH:27]1[Na:17].[N:1]1([S:4][C:15]([F:5])([F:6])[F:7])[S:3](=[O:19])(=[O:20])[c:8]2[c:22]([cH:21][cH:11][cH:23][cH:25]2)[C:24]1=[O:18]>>[CH:2]1=[CH:9][c:10]2[cH:14][cH:13][cH:26][cH:12][c:16]2[CH:27]1[S:4][C:15]([F:5])([F:6])[F:7].[N:1]1=[C:24]([O-:18])[c:22]2[c:8]([cH:25][cH:23][cH:11][cH:21]2)[S:3]1(=[O:19])=[O:20].[Na+:17]", "epd": [["Sigma-/Sigma+", [27, 17], [27, 4]], ["Sigma-/Pi+", [4, 1], [1, 24]], ["Pi-/LP+", [24, 18], [18]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:7][C:23]([F:9])([F:10])[F:11])[S:5](=[O:34])(=[O:35])[c:13]2[c:38]([cH:36][cH:17][cH:40][cH:42]2)[C:41]1=[O:25].[cH:2]1[c:8]([CH3:24])[s:37][c:6]([B-:12]2([c:39]3[cH:26][c:14]([C:3]([F:28])([F:29])[F:30])[cH:18][c:15]([C:4]([F:31])([F:32])[F:33])[cH:27]3)[O:21][CH2:19][CH2:20][O:22]2)[cH:16]1>>[C:3]([c:14]1[cH:18][c:15]([C:4]([F:31])([F:32])[F:33])[cH:27][c:39]([B-:12]2=[O+:21][CH2:19][CH2:20][O:22]2)[cH:26]1)([F:28])([F:29])[F:30].[N:1]1=[C:41]([O-:25])[c:38]2[c:13]([cH:42][cH:40][cH:17][cH:36]2)[S:5]1(=[O:34])=[O:35].[cH:2]1[c:8]([CH3:24])[s:37][c:6]([S:7][C:23]([F:9])([F:10])[F:11])[cH:16]1", "epd": [["LP-/Pi+", [21], [12, 21]], ["Sigma-/Sigma+", [6, 12], [6, 7]], ["Sigma-/Pi+", [7, 1], [1, 41]], ["Pi-/LP+", [41, 25], [25]]]}
